US05436224
Production of 5-(2-fluorophenyl)-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one (Compound No. 2-1)
A mixture of 2-(2-fluorophenyl)acetoacetic acid (5.1 g), acetone (4.2 ml), and acetic anhydride (5.4 ml) was kept at -20° C. and concentrated sulfuric acid (0.3 ml) was added thereto. This was kept at -15° C. and the reaction was carried out for 48 hours. The reaction mixture was added to an aqueous 10 % sodium carbonate solution (150 ml) which was ice-cooled, and the mixture was stirred for a short time at room temperature. White crystals which formed were collected by filtration, and washed well with water and then with hexane. The crystals obtained were dried well under reduced pressure to obtain the captioned compound (5.2 g).

reactant | 2-(2-fluorophenyl)acetoacetic acid | 5.1 g | FC1=C(C=CC=C1)C(C(=O)O)C(=O)C | C10H9FO3
reactant | acetic anhydride | 5.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 150 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 4.2 ml | CC(=O)C | C3H6O
product | 5-(2-fluorophenyl)-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one | 5.2 g | FC1=C(C=CC=C1)C=1C(OC(OC1C)(C)C)=O | C13H13FO3
